US05512562
2- 2-(Indan-4-yl)ethyl!methylamino!-1-phenylethanol was synthesized in analogy to example 1D from 2-(indan-4-yl)ethyl-N-methylamine and phenyloxirane.

reactant | 2-(indan-4-yl)ethyl-N-methylamine | C1CCC2=C(C=CC=C12)CCNC | C12H17N
reactant | phenyloxirane | C1(=CC=CC=C1)C1OC1 | C8H8O
product | 1-phenylethanol | C1(=CC=CC=C1)C(C)O | C8H10O
